US05223498
A mixture of 1-(5-fluoro-2-morpholinophenyl)thiourea (5.1 g) suspended in water (36.5 ml), lead acetate trihydrate (7.95 g) in water (36 ml) and potassium hydroxide (11.45 g) in water (32 ml) was heated under reflux for 25 minutes to give N-(5-fluoro-2-morpholinophenyl)cyanamide as a white solid (m.p. 168°-170° C.).

reactant | 1-(5-fluoro-2-morpholinophenyl)thiourea | 5.1 g | FC=1C=CC(=C(C1)NC(=S)N)N1CCOCC1 | C11H14FN3OS
reactant | lead acetate trihydrate | 7.95 g | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
reactant | potassium hydroxide | 11.45 g | [OH-].[K+]
solvent | water | 36.5 ml | O | H2O
solvent | water | 36 ml | O | H2O
solvent | water | 32 ml | O | H2O
product | N-(5-fluoro-2-morpholinophenyl)cyanamide | FC=1C=CC(=C(C1)NC#N)N1CCOCC1 | C11H12FN3O
